Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vioxx / Celebrex / Latex / Erythromycin Base / Ethylenediamine / 
Doxycycline
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo woman with hx of osteoporosis, past medication related 
transaminitis elevation, and chronic gastritis, who presents 
with 1 day duration of acute epigastric pain.  She reports being 
in usual state of health this am when she went to work, but 
developed sudden severe epigastric pain, nausea with violent 
vomiting of non-bilious, non-bloody emesis, and watery 
non-bloody diarrhea. She was BIBA to ED from work.

In the ED, initial vital signs were T 97.5 P 72  BP 152/75 R 16 
O2 sat 99% on RA.  Epigasric pain ___ remainder of exam wnl. 
Labs notable for lipase: 2462.  Given 1000mL NS drip and 
admitted to the floor for management of acute pancreatitis. Pain 
remitted to ___ without any analgesia.

On the floor, she reports feeling comfortable with minimal 
residual pain and nausea. She has never had such a pain before. 
Reports that baseline gastritis symptoms occur almost daily, but 
is much less severe, in the same location but of a different 
quality. Denies any RUQ pain.  She had diaphoresis with the pain 
this am, but denies any SOB or chest pain during episode. Has 
been taking an OTC supplement "Garcinia" (mangosteen extract) 
for weight loss for 2+ months. Has had some loose stools in last 
2 weeks. Ate crab with coconut milk and vegetables last night. 
Denies alcohol use. No recent travel. 
 
Past Medical History:
- osteoporosis - not currently on medications due to side 
effects
- arthritis
- h/o transaminitis ___ celebrex use)
- s/p appendectomy (___)
- chronic gastritis - ___ NSAID use for arthritis
 
Social History:
___
Family History:
Mother ___ living)-HTN
Sister ___ living)-HTN
Maternal grandmother-HTN
Father (___, deceased)- died from "small bowel cancer, 
encapsulated; developed jaundice", had a history of alcohol 
abuse and jaundice
Brother- healthy, but h/o alcohol abuse
 
Physical Exam:
Admission Physical Exam:
Vitals-  T 98.3, BP 145/77, HR 73, RR 18, SaO2 98% 
General: lying comfortably in bed, alert and interactive. NAD
HEENT:   sclera anicteric, PERRLA. EOMI. MMM, OP clear without 
lesions
Neck:  supple, no lymphadenopathy, no thyromegaly 
CV:  RR, no murmurs, no ectopy
Lungs: CTAB
Abdomen: Soft, mildly tender in epigastric region to deep 
palpation. Otherwise, non-tender, non-distended. Hypoactive 
bowel sounds
Ext:  In compression stockings. Minimal edema to distal ___ 
shins. No cyanosis or clubbing. 
Neuro: CN2-12 intact. ___ strength ___ UE's and ___.
Skin: no rashes or lesions

Discharge Physical Exam:
Vital signs: 98.9, 112/64, 78, 18, 95%RA
General: walking around comfortably in hospital room, in and out 
of bed without effort 
alert and interactive. NAD
HEENT:   sclera anicteric, PERRLA. EOMI. MMM, OP clear without 
lesions
Neck:  supple, no lymphadenopathy, no thyromegaly 
CV:  RR, no murmurs, no ectopy
Lungs: CTAB
Abdomen: Soft, non-tender, non-distended. Normoactive bowel 
sounds
Ext:  No edema. No cyanosis or clubbing. 
Neuro: CN2-12 intact. ___ strength ___ UE's and ___.
Skin: no rashes or lesions

 
Pertinent Results:
Admission labs:
___ 11:15AM   GLUCOSE-122* UREA N-12 CREAT-0.6 SODIUM-140 
POTASSIUM-3.5 CHLORIDE-106 TOTAL CO2-23 ANION GAP-15
___ 11:15AM   ALT(SGPT)-23 AST(SGOT)-29 ALK PHOS-91 TOT 
BILI-0.7
___ 11:15AM   LIPASE-2462*
___ 11:15AM   cTropnT-<0.01
___ 11:15AM   ALBUMIN-4.4 CALCIUM-9.4
___ 11:15AM   TRIGLYCER-71
___ 11:15AM   WBC-7.5 RBC-4.65 HGB-13.8 HCT-41.4 MCV-89 
MCH-29.7 MCHC-33.4 RDW-12.7
___ 11:15AM   NEUTS-35.7* LYMPHS-51.9* MONOS-5.0 EOS-6.8* 
BASOS-0.7
___ 11:15AM   PLT COUNT-288
Interim Labs: 
___ 08:25AM BLOOD WBC-5.3 RBC-4.21 Hgb-12.7 Hct-37.4 MCV-89 
MCH-30.2 MCHC-34.1 RDW-12.6 Plt ___
___ 08:25AM BLOOD Glucose-93 UreaN-6 Creat-0.5 Na-145 K-3.4 
Cl-111* HCO3-26 AnGap-11
___ 08:25AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.1

Imaging:
Liver U/S ___: 
FINDINGS:  There is a tiny hyperdense focus in the liver which 
likely represents calcified granuloma.  Otherwise, the liver 
shows no evidence of focal lesions or textural abnormality.  
Doppler assessment of the main portal vein shows patency and 
hepatopetal flow.  There is no ascites.  There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The CBD 
measures 6 mm.  The gallbladder is normal without evidence of 
stones or gallbladder wall thickening.  The tail of the pancreas 
is not well visualized due to overlying bowel gas, but the 
visualized portions of the pancreas are unremarkable.  The 
spleen measures 8.0 cm and has a homogeneous echotexture.  
Limited views of the right kidney and IVC are unremarkable.  

MRCP ___
FINDINGS:  There are multiple small nonenhancing T2 
hyperintensities throughout the liver, likely biliary hamartomas 
and/or simple cysts. There are few subcentimeter ares within the 
liver which are hyperenhancing on arterial phase but do not 
persist in other sequences (15:22, 27). There is small amount of 
perihepatic free fluid and tiny amount of free fluid is seen in 
the right paracolic gutter. The gallbladder is unremarkable.  
There is no evidence of cholelithiasis.  There is no intra- or 
extra-hepatic biliary ductal dilatation.  There is no 
choledocholithiasis.  The pancreas is of normal signal 
intensity.  The pancreatic duct is not dilated. There is no 
surrounding fat stranding or fluid collections to suggest acute 
inflammation.  The adrenal glands are unremarkable.  The spleen 
is within normal limits.   There are tiny nonenhancing T2 
hyperintense foci in the left kidney, likely simple renal cysts. 
The kidneys otherwise enhance symmetrically without 
hydronephrosis or masses.  
The visualized stomach, small and large bowel are grossly 
unremarkable. The intraabdominal aorta and its branches are 
patent.  There is no lymphadenopathy.
There are no concerning osseous lesions.  
IMPRESSION:
1.  No evidence of pancreatitis on MRI.  Small amount of 
perihepatic free fluid and tiny amount of fluid in the right 
paracolic gutter.
2.  No cholelithiasis or choledocholithiasis.
 
Brief Hospital Course:
# pancreatitis, acute
Ms ___ is a ___ yo woman with history of osteoporosis, past 
medication related transaminase elevation, and NSAID gastritis, 
who presented with 1 day duration of acute epigastric pain 
accompanied by vomiting and diarrhea.  She was found to have 
Lipase elevation to 2462 in the ED, consistent with 
pancreatitis. She was admitted for bowel rest and IV fluids, and 
her pain, nausea and diarrhea all self-resolved without any 
medications or interventions. She was afebrile, denied any 
alcohol use, and her liver enzymes, CBC, chemistries, 
triglycerides and calcium were all WNL. She was seen by 
gastroenterology, who recommended RUQ U/S and MRCP. Imaging were 
negative for stones or pancreatic abnormalities, and only 
remarkable for incidental findings of small liver cysts vs 
biliary hamartomas.  Her diet was advanced, and she tolerated 
this well by discharge. Her transient symptoms were likely due 
to gall stone passage. She did endorse taking a weight loss 
nutritional supplement Garcinia, which may have actions on the 
pancreas. Uncertain if this may have contributed to her 
symptoms, so she is counseled to discontinue this supplement. 
She is also counseled to avoid alcohol and fatty foods, and 
follow up with GI clinic. 

TRANSITIONAL ISSUES:
1.  f/u with GI/ERCP for consideration of ERCP
2.  PENDING STUDIES AT TIME OF DISCHARGE:
### final read of MRCP from ___ - final read pending, prelim 
read below
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. etodolac 500 mg Oral bid 
2. Fexofenadine 60 mg PO DAILY:PRN allergies 
3. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
4. Lorazepam 0.5 mg PO Q8H:PRN dizziness 
5. Meclizine 12.5 mg PO Q8H:PRN dizziness 
6. Garcinia Cambogia (brindall berry-chromium) 500-200 mg-mcg 
Oral daily 

 
Discharge Medications:
1. etodolac 500 mg ORAL BID 
2. Fexofenadine 60 mg PO DAILY:PRN allergies 
3. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
4. Lorazepam 0.5 mg PO Q8H:PRN dizziness 
5. Meclizine 12.5 mg PO Q8H:PRN dizziness 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure taking care of you at ___ ___ 
___. You were admitted with abdominal pain, found to 
have pancreatitis likely due to passing of a gall stone. Your 
pain resolved without any interventions. We are not sure if the 
Garcinia supplement may have contributed to this condition. We 
would recommend that you stop taking this supplement and avoid 
alcohol and fatty foods. 

Please follow up with your providers as scheduled.
Thank you for allowing us to participate in your care. 
 
Followup Instructions:
___